US06107329
(R)-2-(N-t-butoxycarbonylamino)-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one
(R)-2-(N-t-butoxycarbonylamino)-3-phenyl-propan-1-one (14 mmol) and 4-hydroxypiperidine (21.5 mmol) were coupled according to Procedure A (0-25° C. reaction temperature, washed with acid first then base) and the product used without further purification. Yield 4.7 g, 94%; HPLC (60/40) 3.52 minutes (98%).

reactant | (R)-2-(N-t-butoxycarbonylamino)-3-phenyl-propan-1-one | 14 mmol | C(C)(C)(C)OC(=O)N[C@@H](C=O)CC1=CC=CC=C1 | C14H19NO3
reactant | 4-hydroxypiperidine | 21.5 mmol | OC1CCNCC1 | C5H11NO
product | (R)-2-(N-t-butoxycarbonylamino)-1-(4-hydroxy-piperidin-1-yl)-3-phenyl-propan-1-one | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1CCC(CC1)O)CC1=CC=CC=C1 | C19H28N2O4
